US09034880B2
Preparation of methyl 2-(6-(trifluoromethyl)pyridin-3-yl)-3-(1,2,3,4-tetrahydro-2,8-dimethylpyrido[4,3-b]indol-5-yl)propanoate (Compound 384)
The title compound is prepared from a mixture of 2,3,4,5-tetrahydro-2,8-dimethyl-1H-pyrido[4,3-b]indole, methyl 2-(6-(trifluoromethyl)pyridin-3-yl)acrylate and KOH (5-7 equiv) in NMP at a temperature ranging between 25 deg C. to 100 deg C. The product obtained is isolated by preparative HPLC.

reactant | 2,3,4,5-tetrahydro-2,8-dimethyl-1H-pyrido[4,3-b]indole | CN1CC2=C(NC=3C=CC(=CC23)C)CC1 | C13H16N2
reactant | methyl 2-(6-(trifluoromethyl)pyridin-3-yl)acrylate | FC(C1=CC=C(C=N1)C(C(=O)OC)=C)(F)F | C10H8F3NO2
reactant | KOH | 5-7 equiv | [OH-].[K+]
solvent | NMP | CN1CCCC1=O | C5H9NO
product | methyl 2-(6-(trifluoromethyl)pyridin-3-yl)-3-(1,2,3,4-tetrahydro-2,8-dimethylpyrido[4,3-b]indol-5-yl)propanoate | FC(C1=CC=C(C=N1)C(C(=O)OC)CN1C2=C(C=3C=C(C=CC13)C)CN(CC2)C)(F)F | C23H24F3N3O2
